US09212148B2
Tetrakis-(triphenylphosphine)palladium(0) (0.40 g, 5 mol %) was added to a solution of methyl 6-chloropyrimidine-4-carboxylate (1.24 g) in DME (35 mL) and the solution left to stir at room temperature (20 min.). K2CO3 (1.11 g, 1.2 eq.), water (10 mL) and 2,4,6-trivinylcyclotriboroxane-pyridine complex (1.93 g, 1.2 eq.) were then added to the solution and the resultant mixture heated at reflux (24 hrs). The mixture was then cooled to room temperature and extracted with diethyl ether (200 mL) and the extract washed with water (30 mL). The diethyl ether extract was dried over MgSO4 and then diluted with hexane (200 mL). The solution was filtered through aluminium oxide (6 g) and the eluent concentrated in vacuo to give a yellow oil. The oil was then subjected to silica gel chromatography (10-100% EtOAc/Pet ether) followed by reverse phase (C18) chromatography (40% MeCN/water) to yield methyl 6-vinylpyrimidine-4-carboxylate as a white solid (0.40 g, 34% yield). 1H NMR, 270 MHz (CDCl3): 9.29 (d, 1H, H-2, J=1.1 Hz), 7.99 (d, 1H, H-5, J=1.1 Hz), dd, 1H, H-A, J=10.4 and 17.3 Hz), 6.61 (dd, 1H, H-C, J=1.0 and 17.3 Hz), 5.81 (dd, 1H, H-B, J=1.0 and 10.4 Hz), 4.02 (s, 3H, —CH3). 13C NMR, 67.5 MHz (CDCl3): 164.79 (2C), 159.22 (2C), 134.71, 124.92, 117.71, 53.52. ESI-MS Expected for molecular ion C8H8N2O2=164.0586. Found M+H=165.0664.

reactant | methyl 6-chloropyrimidine-4-carboxylate | 1.24 g | ClC1=CC(=NC=N1)C(=O)OC | C6H5ClN2O2
reactant | K2CO3 | 1.11 g, 1.2 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 10 mL | O | H2O
reactant | 2,4,6-trivinylcyclotriboroxane-pyridine complex | 1.93 g, 1.2 eq. | B1(OB(OB(O1)C=C)C=C)C=C.C1=CC=NC=C1
solvent | DME | 35 mL | COCCOC | C4H10O2
solvent | MeCN water | CC#N.O
product | methyl 6-vinylpyrimidine-4-carboxylate | 0.40 g, 34% yield | C(=C)C1=CC(=NC=N1)C(=O)OC | C8H8N2O2
